* CONDUCTION NMOS W1 *
**********************

.INCLUDE ../45nm_MGK.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

* Defining parameters
.PARAM Lmin=45n
.PARAM Wmin=270n
.PARAM Ldiff=90n
	
* Description of the transistor
Mn drain gate source body nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Vd 	drain	0		0
Vg 	gate	alim		0
Vs 	source	0		0
Vb 	body	0		0
Vdd 	alim	0		0

.dc TEMP 25 90 75 Vdd 0 1.1 0.05 

* Analysis Parameters
.CONTROL
  run
    set wr_vecnames
    set wr_singlescale
    print abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
    wrdata output_W_270n.txt abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
.ENDC

.END